
* узлы подключаются в порядке: коллектор <C>, база <B>, эмиттер <E>
Q1 Col 0 Em 2N3439
V1 Col 0 5
V2 0 Em 5
.DC LIN V2 0 1 0.001 V1 LIST 5 0
.TEMP 27
.PLOT DC ABS(IE(Q1))


;$SpiceType=AMBIGUOUS
