
* узлы подключаются в порядке: коллектор <C>, база <B>, эмиттер <E>
Q1 Col Bas 0 2N3439
V1 Col 0 3
I1 0 Bas 5
.DC DEC I1 1N 0.1 100 V1 LIST 5
.TEMP 27
.PLOT DC ABS(IC(Q1)/IB(Q1))
;$SpiceType=AMBIGUOUS
