
* узлы подключаются в порядке: коллектор <C>, база <B>, эмиттер <E>
Q1 Col 0 Em 2N3439
V1 Col 0 5
I1 Em 0 1
.DC LIN V1 -0.7 1 0.001 I1 LIST 0 2M 4M 6M 8M 10M
.TEMP 27
.PLOT DC IC(Q1)


;$SpiceType=AMBIGUOUS
