
.subckt k140ud1 In1 In2 Out
*Входные параметры
V1 In2 In21 DC 660u
I1 In21 0 DC 9.8u
I2 0 In1 DC 9.8u
R1 0 In1 10.1k
R2 In21 0 10.1k
R3 In1 In21 1.31k
*Частотная зависимость
G1 1 0 VALUE={2411/39*V(In1,In21)}
R4 1 0 39
C1 1 0 1500
*Выходные параметры
G2 Out 0 VALUE={V(1,0)/5}
R5 Out 0 5
*Диодный ограничитель на выходе
V2 2 0 DC 9.3
V3 0 3 DC 9.3
D1 Out 2 $GENERIC
D2 3 Out $GENERIC
.ENDS


;$SpiceType=AMBIGUOUS
